US07326801B2
c) (2R,5S)-3,6-Diethoxy-2-isopropyl-5-{2-[3-methoxy-4-(4-phenyl-butoxy)-phenyl ]-ethyl}-2,5-dihydro-pyrazine
To a solution of (R)-3,6-diethoxy-2-isopropyl-2,5-dihydro-pyrazine (2.2 g; 10.4 mmol; Lohr, Birgit et al., Synlett, 1999, 7, 1139-1141) in dry THF (30 ml) at −78° C. there is added n-butyllithium (6.5 ml; 10.4 mmol; 1.6M in n-hexane). After 30 minutes at −78° C. the endproduct of step b) (4.3 g; 10.4 mmol) dissolved in dry THF (15 ml) is added tropwise over a period of 10 minutes. The reaction mixture is allowed to warm up to RT and it is kept at RT for 20 hours. After quenching with saturated aqueous ammonium chloride solution and extraction (2 times) with ethyl acetate the organic phase is dried over MgSO4 and concentrated under reduced pressure. The crude is purified on silica gel using diethylether/n-hexane (1/9) as mobile phase.

reactant | (R)-3,6-diethoxy-2-isopropyl-2,5-dihydro-pyrazine | 10.4 mmol, 2.2 g | C(C)OC=1[C@H](N=C(CN1)OCC)C(C)C | C11H20N2O2
reactant | n-butyllithium | 10.4 mmol, 1.6M, 6.5 ml | C(CCC)[Li]
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | THF | 15 ml | C1CCOC1 | C4H8O
product | (2R,5S)-3,6-Diethoxy-2-isopropyl-5-{2-[3-methoxy-4-(4-phenyl-butoxy)-phenyl ]-ethyl}-2,5-dihydro-pyrazine | C(C)OC=1[C@H](N=C([C@@H](N1)CCC1=CC(=C(C=C1)OCCCCC1=CC=CC=C1)OC)OCC)C(C)C | C30H42N2O4
